US07495007B2
In a manner similar to the method described in example 24a, E/Z-6-chloro-3-(3-chloro-benzylidene)-1,3-dihydro-indol-2-one (1.34 g, 4.77 mmol) was reacted with di-tert-butyl-dicarbonate (1.91 g, 8.73 mmol) (Aldrich), triethylamine (3.29 mL, 23.6 mmol) and 4-dimethylaminopyridine (25 mg) in dichloromethane (100 mL) to give E/Z-6-cyano-3-(3-chloro-benzylidene)-2-oxo-2,3-dihydro-indole-1-carboxylic acid tert-butyl ester as a yellow solid (Yield: 1.7 g, 93.4%).

reactant | Z-6-chloro-3-(3-chloro-benzylidene)-1,3-dihydro-indol-2-one | 4.77 mmol, 1.34 g | ClC1=CC=C2/C(/C(NC2=C1)=O)=C/C1=CC(=CC=C1)Cl | C15H9Cl2NO
reactant | di-tert-butyl-dicarbonate | 8.73 mmol, 1.91 g | C(C)(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
reactant | triethylamine | 23.6 mmol, 3.29 mL | C(C)N(CC)CC | C6H15N
catalyst | 4-dimethylaminopyridine | 25 mg | CN(C1=CC=NC=C1)C | C7H10N2
solvent | dichloromethane | 100 mL | ClCCl | CH2Cl2
product | Z-6-cyano-3-(3-chloro-benzylidene)-2-oxo-2,3-dihydro-indole-1-carboxylic acid tert-butyl ester | Yield: 1.7 g, 93.4% | C(C)(C)(C)OC(=O)N1C(\C(\C2=CC=C(C=C12)C#N)=C/C1=CC(=CC=C1)Cl)=O | C21H17ClN2O3
